US05814653
7-benzyloxy-4-(t-butyloxycarbonyl)amino-10H-cyclohepta[7,6-b]indole
To a solution of 1.08 gm (3.52 mMol) 7-benzyloxy-4-amino-10H-cyclohepta[7,6-b]indole in 30 mL tetrahydrofuran were added 1.85 mL 2N sodium hydroxide followed by 0.808 gm (3.7 mMol) di(t-butyl)dicarbonate and the mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure and the residue partitioned between dichloromethane and water. The organic phase was separated, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 30% hexane in ethyl acetate. Fractions containing product were combined and concentrated under reduce pressure to give 1.37 gm (96%) of the desired compound.

reactant | 7-benzyloxy-4-amino-10H-cyclohepta[7,6-b]indole | 3.52 mMol, 1.08 gm | C(C1=CC=CC=C1)OC1=CC=2NC3=C(C=CC=C3C2CC=C1)N | C20H18N2O
reactant | sodium hydroxide | 2N, 1.85 mL | [OH-].[Na+]
reactant | di(t-butyl)dicarbonate | 3.7 mMol, 0.808 gm | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 7-benzyloxy-4-(t-butyloxycarbonyl)amino-10H-cyclohepta[7,6-b]indole | 1.37 gm, 96% | C(C1=CC=CC=C1)OC1=CC=2NC3=C(C=CC=C3C2CC=C1)NC(=O)OC(C)(C)C | C25H26N2O3
